Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ RASH
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr. ___ is a ___ yo M presenting with bilateral lower extremity 
erythema and swelling. He endorses an itchiness in both feet for 
the past several weeks. On ___ (7 days PTA), he began to 
notice some "tears" on the surface of his feet.  He reports that 
his feet felt dry with visible cracks on ___ evening 4 days 
PTA.  He then used an OTC foot soap that he purchased at ___.  
This was a revitalizing foot bath solution containing borax, 
iodine, and bran for dry feet with a cream that was applied 
after as a moisturizer. On ___ morning, he woke up with 
redness, itching, peeling, and swelling in both feet.  He 
reported that his feet felt "tight." Over the course of the 
weekend, the redness and swelling began to extend up his shins 
and is presently at mid-shin level.  He denies any associated 
pain and retains the ability to ambulate. Pt denies experiencing 
fevers, chills, N/V, night sweats, diarrhea, changes in 
urination, or fatigue.

Notably, he endorsed a similar pattern of redness with itchy 
scaling and crusting on both hands last month.  He also 
complained of intermittent itchiness with a rash-like 
distribution on his abdomen which worsens when he is sweating in 
the kitchen of the establishment where he works as a ___.
 
In the ED Course, initial vitals were T 97.6 HR 73 BP 120/75 RR 
16 100% RA. He received 1 g frozen bag of vancomycin, 25 mg 
diphenhydramine and 20 mg prednisone

On transfer, his vital signs were: T 98.3 BP 140/90 HR 64 RR 16 
O2 sat 97% on RA.  He reports that his symptoms of pruritus have 
subsided since receiving medication in the ED.  

REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 

 
Past Medical History:
Denies h/o asthma and edema. No HD or diabetes. No surgeries. 
Denies any other PMH.  

 
Social History:
___
Family History:
Mother has diabetes and lives in ___, as does his father. 
He has 2 sisters and 3 brothers. 2 of his brothers and 1 sister 
live in ___.  

 
Physical Exam:
ADMISSION:
VS: T 98.3 BP 140/90 HR 64 RR 16 O2 sat 97% on RA   
GEN: Alert, oriented, no acute distress  
HEENT: NCAT MMM EOMI sclera anicteric, OP clear  
NECK: supple, no JVD, no LAD  
PULM: Good aeration, CTAB no wheezes, rales, ronchi  
CV: RRR normal S1/S2, no mrg  
ABD: soft NT ND normoactive bowel sounds, no r/g  
EXT: WWP, 2+ pulses palpable bilaterally, no c/c; ___ ___ edema, 
erythema, and warmth to mid-shin   
NEURO: CNs2-12 intact, motor function grossly normal 
SKIN: Areas of erythema and edema are nontender to palpation. 
Cracks and excoriations in the skin on the dorsum of both feet 
most prominent around the toes. Large scaly plaques with peeling 
on dorsum of both feet that extend just above ankles ___. On 
hands, he has hyperpigmented macules most prominent on the 
thenar eminences. On the L forearm, he has some brown, 
hyperpigmented patches.
On the abdomen, he also has some brown, hyperpigmented macules 
with some small excoriations most prominent in a nearly 
dermatomal distribution in the right quadrant.
 
DISCHARGE:
VS - T 97.7 BP 106/52 HR 53 RR 18 O2 Sat 99% RA
GEN: Alert, oriented, no acute distress  
HEENT: NCAT MMM EOMI sclera anicteric, OP clear  
NECK: supple, no JVD, no LAD  
PULM: Good aeration, CTAB no wheezes, rales, ronchi  
CV: RRR normal S1/S2, no mrg  
ABD: soft NT ND normoactive bowel sounds, no r/g  
EXT: WWP, 2+ pulses palpable bilaterally, no c/c; ___ ___ brawny 
erythema, and warmth to mid-shin, much improved from before. 
Edema resolved. Scaling lichenified plagues improved but still 
persist on dorsum of foot.    
NEURO: CNs2-12 intact, motor function grossly normal 
 
 
Pertinent Results:
ADMISSION:

___ 04:46PM   PLT COUNT-217
___ 04:46PM   NEUTS-69.8 LYMPHS-17.2* MONOS-3.6 EOS-8.8* 
BASOS-0.6
___ 04:46PM   WBC-9.4 RBC-4.58* HGB-14.3 HCT-44.3 MCV-97 
MCH-31.1 MCHC-32.2 RDW-12.1
___ 04:46PM   estGFR-Using this
___ 04:46PM   GLUCOSE-92 UREA N-14 CREAT-0.8 SODIUM-142 
POTASSIUM-4.5 CHLORIDE-103 TOTAL CO2-29 ANION GAP-15
___ 05:32PM   LACTATE-1.3

DISCHARGE:

___ 07:15AM BLOOD WBC-9.1 RBC-4.43* Hgb-14.2 Hct-42.6 
MCV-96 MCH-31.9 MCHC-33.2 RDW-11.7 Plt ___
___ 07:15AM BLOOD Glucose-110* UreaN-14 Creat-0.7 Na-140 
K-4.0 Cl-103 HCO3-28 AnGap-13
BLOOD CULTURES x 2 ___: PENDING
___ 11:00AM BLOOD HIV Ab-NEGATIVE
___ 11:00AM BLOOD HCV Ab-NEGATIVE
___ 07:15AM BLOOD %HbA1c-5.1 eAG-100
___ 09:46AM BLOOD ZINC-PND
___ 06:50AM BLOOD Albumin-4.4
___ 06:50AM BLOOD ALT-27 AST-25 LD(LDH)-228 AlkPhos-61 
TotBili-0.4
 
Brief Hospital Course:
Mr. ___ is a ___ yo M who presents with a 4 day history of 
bilateral ___ edema, erythema, and pruritus. DISCHARGED AFTER 
IMPROVEMENT O/N WITH TOPICAL STEROIDS. 

# CONTACT DERMATITIS:
Three common conditions for the presentation of crusting scaly 
plaques with pruritus, excoriations, and attendant edema with 
erythema and warmth include atopic dermatitis, contact 
dermatitis, and infectious cellulitis.  An atopic picture is 
consistent with his history of itchiness and cracking skin 
lesions prior to any exposure to possible skin irritants.  
Moreover, atopic dermatitis can be exacerbated by exposure to 
chemical irritants, which can further dry out the skin and lead 
to itchiness and scratching-induced excoriations.

The history of exposure to an irritant points in the diagnostic 
direction of contact dermatitis.  But the fact that his symptoms 
predated the exposure by days-to-weeks argues against CD.  
Further, the lack of leukocytosis and systemic symptoms in the 
presence of pruritus suggest contact dermatitis or atopic 
dermatitis vs. infectious cellulitis.  However, it is certainly 
possible that a secondary infection could occur due to a 
disrupted skin barrier due to primary dermatitis.  Another 
infectious etiological possibility could include a fungal 
infection (such as tinea versicolor from Malassezia), especially 
considering the pathcy hypo-to-hyperpigmentation distribution in 
the abdomen worsened with sweating.

Other inflammatory or immune processes could be to blame, such 
as psoriasis.  However, psoriasis is unlikely given the lack of 
silver plaques on an erythematous base and the lack of extensor 
surface involvement. Of course, several of these processes could 
be operating concurrently. 

We also considered underlying systemic conditions such as DM, 
HIV and Hep C that might predispose him to immunodeficiency 
leading to susceptibility to fungal or scabies infection over a 
wider skin surface.  However, this was unlikely in the context 
of his negative HIV result and the negative ___ prep looking for 
fungal involvement as well as the negative scabies prep, though 
these tests do not definitively rule out tinea pedis or scabies. 
 Overall, our initial clinical interpretation prior to punch 
biopsy results was that this could be a combination of atopic 
and contact dermatitis.  One uncommon cause discussed was 
necrotizing acral erythema, which is a hyperkeratotic 
erythematous eruption resembling psoriasis typically seen in 
patients with hepatitis C infection. Ultimately, the prelim 
pathological determination per derm was that this is contact 
dermatitis on ___.

We treated the pt initially with topical corticosteroid 
(hydrocortisone 1%) and controlled pruritus with 1G 
antihistamine (diphenhydramine 25 mg q6h). We consulted 
dermatology in the AM on ___ who recommended switching to 
clobetasol (0.05% ointment BID), which was begun in the ___ on 
___.  He was discharged on the clobetasol ointment, which 
should be applied to the affected areas on the leg and trunk for 
a maximum of 2 weeks duration.  The antihistamine can be taken 
as needed for any residual itching.

TRANSITIONAL ISSUES: 
- PENDING LABS: zinc 
- Followup with Derm
- Needs new PCP
 
___ on ___:
NONE
 
Discharge Medications:
1. DiphenhydrAMINE 25 mg PO Q6H:PRN itching 
RX *diphenhydramine HCl 25 mg 1 capsule(s) by mouth Q6 Disp #*32 
Capsule Refills:*0
2. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
to affected areas of feet. please avoid face, axilla, and groin 
as it's a high potency steroid. thanks 
RX *clobetasol 0.05 % PLEASE ONLY USE ON LEGS. DO NOT USE FOR 
MORE THAN ONE WEEK twice a day Disp #*1 Tube Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
1. CONTACT DERMATITIS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,

It was a pleasure taking care of you at ___. You were admitted 
with a rash on your feet. Based on our assessment, it appears 
that the rash is likely "contact dermatitis" that may have 
occured because of the reaction of the skin to some thing that 
it came in contact with. The rash improved with topical 
medication and you were discharged home in a stable condition 
with close followup with dermatology. 
 
Followup Instructions:
___